US05306723
5-[2-(4-Benzyl-4-hydroxypiperidino) propionyl]-2(1H,3H)-indolone
5-(2-Chloropropionyl)-2(1H,3H)-indolone (2.5 g, 11.2 mmol), 4-hydroxy-4-benzylpiperidine (2.1 g, 11.2 mmol), and triethylamine (1.56 ml, 11.2 mmol) were combined in ethanol and refluxed overnight. The mixture was cooled to room temperature and concentrated at reduced pressure. The residue was partitioned between ethyl acetate and water and the phases were separated. The aqueous layer was extracted with ethyl acetate and the combined organic phase was washed with brine, dried over calcium sulfate, and concentrated. The crude product was flash chromatographed on silica gel eluting first unreacted 5-(2-chloropropionyl) -2(1H,3H)-indolone with 1:1 ethyl acetate:hexane. Continued elution with ethyl acetate gave 3.6 g of product as a light brown foam. Recrystallization from ethyl acetate/hexane gave 1.23 g of purified title product. Less pure fractions from the column and mother liquors from the recrystallization were rechromatographed as above with 1:1 and then 3:1 ethyl acetate:hexane. Product fractions were triturated with ether/hexane to give 0.2 g more product for a total yield of 1.43 g, 34%; m.p. 188°-192° C.; NMR 8.22 (s, 1H), 8.08 (d, J=8 Hz, 2H), 7.99 (s, 1H), 7.31-7.13 (m, 5H), 6.89 (d, J=8 Hz, 1H), 4.03 (q, J=6.8 Hz, 1H), 3.57 (s, 2H), 2.72 (s, 2H), 2.72-2.58 (m, 3H), 2.46 (distorted t, 1H), 75-1.40 m, 4H), 1.26 (d, J=6.8 Hz, 3H), 1.23-1.19 (m, 1H).

reactant | 5-(2-Chloropropionyl)-2(1H,3H)-indolone | 11.2 mmol, 2.5 g | ClC(C(=O)C=1C=C2CC(NC2=CC1)=O)C | C11H10ClNO2
reactant | 4-hydroxy-4-benzylpiperidine | 11.2 mmol, 2.1 g | OC1(CCNCC1)CC1=CC=CC=C1 | C12H17NO
reactant | triethylamine | 11.2 mmol, 1.56 ml | C(C)N(CC)CC | C6H15N
solvent | ethanol | C(C)O | C2H6O
product | 5-[2-(4-Benzyl-4-hydroxypiperidino) propionyl]-2(1H,3H)-indolone | 3.6 g | C(C1=CC=CC=C1)C1(CCN(CC1)C(C(=O)C=1C=C2CC(NC2=CC1)=O)C)O | C23H26N2O3
